US06960662B2
To a solution of 220 g (0.59 mol) of the product of Example 2, 2-methylsulfinyl-6-(3,5-dimethoxy-phenyl)8-ethyl-8H-pyrido[2,3-d]pyrimidine-7-one, in 2 L of acetonitrile was added a solution of 100 g (0.765 mol, 1.3 eq) of 4-aminopyridine hydrochloride in 700 mL of ethanol. The mixture was heated to 40° C. and stirred for 6 hours. The mixture was then cooled to 24° C. and filtered to provide 256 g (99%) of 2-(4-imino-4H-pyridin-1-yl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]-pyrimidin-7-one hydrochloride; mp 295-300° C. (dec).

reactant | 2-methylsulfinyl-6-(3,5-dimethoxy-phenyl)8-ethyl-8H-pyrido[2,3-d]pyrimidine-7-one | CS(=O)C=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C18H19N3O4S
reactant | 4-aminopyridine hydrochloride | 0.765 mol, 100 g, 1.3 eq | Cl.NC1=CC=NC=C1
solvent | acetonitrile | 2 L | C(C)#N | C2H3N
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 2-(4-imino-4H-pyridin-1-yl)-6-(3,5-dimethoxyphenyl)-8-ethyl-8H-pyrido[2,3-d]-pyrimidin-7-one hydrochloride | 256 g, 99% | Cl.N=C1C=CN(C=C1)C=1N=CC2=C(N1)N(C(C(=C2)C2=CC(=CC(=C2)OC)OC)=O)CC | InChI=1S/C22H21N5O3.ClH/c1-4-27-20-15(13-24-22(25-20)26-7-5-16(23)6-8-26)11-19(21(27)28)14-9-17(29-2)12-18(10-14)30-3;/h5-13,23H,4H2,1-3H3;1H
